US08431581B2
Preparation of 2-Chloro-1-(2,6-dimethyl-morpholin-4-yl)-ethanone
2,6-Dimethylmorpholine (a mixture of trans- and cis-isomers (1.0 g, 8.7 mmol) and TEA (1.34 ml, 9.6 mmol) were dissolved in anhydrous ether (50 ml) and cooled in ice bath. To the above mixture was added dropwise a solution of chloroacetyl chloride (0.69 ml, 8.7 mmol). Then the mixture was warmed to room temperature and stirred for 3 hours. The mixture was washed with water, dried and evaporated under reduced pressure. The residue was purified by column chromatography (EA/PE=1/1) to afford the title compound (0.79 g, yield 47.5%).

reactant | 2,6-Dimethylmorpholine | CC1CNCC(O1)C | C6H13NO
reactant | chloroacetyl chloride | 8.7 mmol, 0.69 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 2-Chloro-1-(2,6-dimethyl-morpholin-4-yl)-ethanone | 0.79 g, yield 47.5% | ClCC(=O)N1CC(OC(C1)C)C | C8H14ClNO2
